US06316482B1
A mixture of 5-amino-3-benzyloxymethylisocoumarin (800 mg) and sodium methylate in methanol (768 mg) was stirred at ambient temperature for 20 minutes. After removal of solvents, water (40 ml) was added to the residue and the whole was extacted with chloroform. The extract was washed with water, dried over magnesium sulfate, and evaporated to dryness to leave a crude product, which was purified by silica gel column chromatography with n-hexane:ethyl acetate (6:1) as an eluent to afford methyl 2-benzyloxymethylindole-4-carboxylate (660 mg).

reactant | 5-amino-3-benzyloxymethylisocoumarin | 800 mg | NC1=C2C=C(OC(=O)C2=CC=C1)COCC1=CC=CC=C1 | C17H15NO3
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | 768 mg | CO | CH4O
product | methyl 2-benzyloxymethylindole-4-carboxylate | 660 mg | C(C1=CC=CC=C1)OCC=1NC=2C=CC=C(C2C1)C(=O)OC | C18H17NO3
